US07612084B2
di-tert-butyl oct-7-en-1-ylimidodicarbonate
To a stirred suspension of sodium hydride (840 mg of a 60% dispersion in oil, 21.0 mmol) in N,N-dimethylformamide (40 ml) was added in one portion di-tert-butyl iminodicarbamate (4.56 g, 21.0 mmol). After stirring for 40 mins, 8-bromooct-1-ene (3.50 ml, 21 mmol) was added and mixture was stirred at room temperature overnight. The solvent was removed in vacuo and the residue dissolved in water and ethyl acetate. The organic layer was separated and washed with water then brine, dried (magnesium sulphate) and the solvent removed in vacuo. The residue was purified by column chromatography on silica gel eluting with diethyl ether:pentane (1/99 to 6/94 by volume) to furnish the title compound as a clear oil, 5.51 g.

reactant | sodium hydride | [H-].[Na+]
reactant | di-tert-butyl iminodicarbamate | 21.0 mmol, 4.56 g | N(NC(OC(C)(C)C)=O)NC(OC(C)(C)C)=O | C10H21N3O4
reactant | 8-bromooct-1-ene | 21 mmol, 3.50 ml | BrCCCCCCC=C | C8H15Br
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | di-tert-butyl oct-7-en-1-ylimidodicarbonate | C(CCCCCC=C)N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C18H33NO4
